US09029395B2
To a solution of ethyl {4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}acetate (for a preparation see Intermediate 22) (270 mg, 0.597 mmol) in methanol (6 mL) and water (2.0 mL) was added aqueous sodium hydroxide (2N, 0.597 mL, 1.193 mmol) at room temperature and the resulting mixture was stirred for 6 h. Aqueous sodium hydroxide (2N, 0.5 mL) was added and the mixture was left standing overnight. The bulk of methanol was removed in vacuo and the resulting residue was partitioned between water and Et2O and the layers were separated. The aqueous layer was acidified with hydrochloric acid (2N, 2 mL) and extracted twice with EtOAc. The combined organic phases were dried over MgSO4 and concentrated in vacuo to give {4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}acetic acid (200 mg, 0.471 mmol, 79% yield) as a brown foam. This compound was used in the next step without further purification. LCMS (HpH, 2 min), Rt=0.65, MH+=425.

reactant | ethyl {4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}acetate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CC(=O)OCC)NC(=O)OC(C)C)C | C26H32N2O5
reactant | water | 2.0 mL | O | H2O
reactant | sodium hydroxide | 1.193 mmol, 2N, 0.597 mL | [OH-].[Na+]
reactant | sodium hydroxide | 2N, 0.5 mL | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | {4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}acetic acid | 0.471 mmol, 200 mg, 79% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CC(=O)O)NC(=O)OC(C)C)C | C24H28N2O5
